US09447118B2
(1S,3S,4S)-3-Hydroxy-4-bromo-N,N-dimethylcyclohexanecarboxamide
Ethyl acetate (1250 ml) was cooled to 5° C., and (1S,4S,5S)-4-bromo-6-oxabicyclo[3.2.1]octan-7-one (250 g) was then added thereto. Thereafter, a 50% dimethylamine aqueous solution (382 ml) was added to the above obtained solution, and the obtained mixture was then stirred for 14 hours. Thereafter, citric acid (234.2 g), 20% saline (500 ml), and ethyl acetate (625 ml) were added to the reaction mixture, and the obtained mixture was then stirred for 30 minutes, so that the organic layer was separated. Further, the aqueous layer was extracted with ethyl acetate (1875 ml). The organic layers were gathered, and the gathered organic layer was then concentrated to 1250 ml. Thereafter, water (500 ml) was added to the concentrated solution, and the mixed solution was then concentrated again to obtain the title compound (274.5 g, yield: 90%) in the form of an aqueous solution (625 ml).

reactant | (1S,4S,5S)-4-bromo-6-oxabicyclo[3.2.1]octan-7-one | 250 g | Br[C@H]1CC[C@@H]2C(O[C@H]1C2)=O | C7H9BrO2
reactant | dimethylamine | 382 ml | CNC | C2H7N
reactant | citric acid | 234.2 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | 625 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 1250 ml | C(C)(=O)OCC | C4H8O2
product | (1S,3S,4S)-3-Hydroxy-4-bromo-N,N-dimethylcyclohexanecarboxamide | 274.5 g, yield: 90% | O[C@H]1C[C@H](CC[C@@H]1Br)C(=O)N(C)C | C9H16BrNO2
